US04652651
4.0 g (8.9 mmol) of ethyl rac-cis-3-(1-t-butoxyformamido)-1-(2,4-dimethoxybenzyl)-β-methyl-2-oxo-4-azetidineacrylate are dissolved in 300 ml of acetonitrile and the solution is treated at 90°-95° C. with 3.86 g (14.3 mmol) of potassium peroxydisulphate and 2.31 g (13.3 mmol) of potassium hydrogen sulphate for 2 hours. The organic solvent is removed by evaporation and the aqueous phase is extracted with chloroform. The combined organic phases are washed with aqueous sodium chloride solution and dried over sodium sulphate. The solution is evaporated and the residue is chromatographed on silica gel using ethyl acetate for the elution. 990 mg (37%) of t-butyl 4-[2-(ethoxycarbonyl)-1-methylvinyl]-2-oxo-3-azetidinecarbamate are obtained.

reactant | ethyl rac-cis-3-(1-t-butoxyformamido)-1-(2,4-dimethoxybenzyl)-β-methyl-2-oxo-4-azetidineacrylate | 8.9 mmol, 4.0 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@@H]1C(=CC(=O)OCC)C)CC1=C(C=C(C=C1)OC)OC)=O | C23H32N2O7
reactant | potassium peroxydisulphate | 14.3 mmol, 3.86 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | potassium hydrogen sulphate | 13.3 mmol, 2.31 g | S(=O)(=O)(O)[O-].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | t-butyl 4-[2-(ethoxycarbonyl)-1-methylvinyl]-2-oxo-3-azetidinecarbamate | 990 mg, 37% | C(C)OC(=O)C=C(C)C1C(C(N1)=O)NC(=O)OC(C)(C)C | C14H22N2O5
